US04786644
1,4-Dihydro-N-(6-methyl-2-pyridyl)-4-oxo-1-phenyl-3-quinolinecarboxamide
A solution of 5.49 g of 2-amino-6-methylpyridine and 10 g of 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester in 500 ml of toluene was refluxed for 24 hours in a soxhlet apparatus containing 10 g of 4 Å molecular sieves. The solution was filtered and evaporated. The residue was purified by means of high pressure liquid chromatography (silica gel: dichloromethane as the eluent) to afford 9.8 g of 1,2-dihydro-4-hydroxy-N-(6-methyl-2-pyridyl)-1-phenyl-3-quinolnecarboxamide which was dissolved in chloroform, treated with 35 g of activated manganese dioxide and stirred for three hours at room temperature.

reactant | 2-amino-6-methylpyridine | 5.49 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester | 10 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H17NO3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 35 g | [O-2].[O-2].[Mn+4]
product | 1,4-Dihydro-N-(6-methyl-2-pyridyl)-4-oxo-1-phenyl-3-quinolinecarboxamide | CC1=CC=CC(=N1)NC(=O)C1=CN(C2=CC=CC=C2C1=O)C1=CC=CC=C1 | C22H17N3O2
